US05210239
2-Methoxymethyloxy-4,5,6-trimethoxybenzaldehyde (starting compound No. (9))
30.4 g of 1-methoxymethyloxy-3,4,5-trimethoxyphenol prepared in Referential Example 10 was dissolved in 250 ml of anhydrous ether, and 100 ml of n-butyllithium (1.6 M n-hexane solution) was dropwise added thereto at -20° C. After the completion of the dropwise addition, the mixture was stirred at room temperature for 2 hr, and 14.6 ml of DMF was added thereto. 100 ml of ice water was added thereto, and the mixture was extracted with ethyl acetate. The organic phase was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent; n-hexane ethyl acetate=6 : 4) to prepare 25.5 g of the product compound as a light yellow oleaginous substance.

reactant | 1-methoxymethyloxy-3,4,5-trimethoxyphenol | 30.4 g | COCOC1(CC(=C(C(=C1)OC)OC)OC)O | C11H18O6
reactant | n-butyllithium | 1.6 M, 100 ml | C(CCC)[Li]
reactant | DMF | 14.6 ml | CN(C)C=O | C3H7NO
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-Methoxymethyloxy-4,5,6-trimethoxybenzaldehyde | COCOC1=C(C=O)C(=C(C(=C1)OC)OC)OC | C12H16O6
